US04636523
A stirred mixture of 3.3 g (0.012 mole) 7-chloro-2,2,3-trifluoro-3-trifluoromethyl-2,3-dihydrobenzofuran, 10 ml of concentrated sulfuric acid and 15 ml of concentrated nitric acid was heated at 80° C. for approximately 18 hours. The mixture was cooled and poured into ice water. The aqueous mixture was extracted with three 100 ml portions of diethyl ether and the extracts were combined. After drying over anhydrous magnesium sulfate the extract was filtered. The filtrate was evaporated under reduced pressure leaving an oil which crystallized upon standing. Recrystallization from n-heptane yielded 1.65 g of 7-chloro-2,2,3-trifluoro-3-trifluoromethyl-2,3-dihydro-5-nitrobenzofuran (mp 46°-47° C.). The nmr and ir spectra were consistent with the proposed structure.

reactant | 7-chloro-2,2,3-trifluoro-3-trifluoromethyl-2,3-dihydrobenzofuran | 0.012 mole, 3.3 g | ClC1=CC=CC=2C(C(OC21)(F)F)(C(F)(F)F)F | C9H3ClF6O
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 7-chloro-2,2,3-trifluoro-3-trifluoromethyl-2,3-dihydro-5-nitrobenzofuran | 1.65 g | ClC1=CC(=CC=2C(C(OC21)(F)F)(C(F)(F)F)F)[N+](=O)[O-] | C9H2ClF6NO3
